US04460508
Water (50,000 ml), 2,940 ml of glacial acetic acid and (22.22 moles) of 2-nitrophenylpyruvic acid oxime were charged into a 20 gallon reactor. The stirred suspension was heated over two hours under nitrogen atmosphere to 90° and this temperature was maintained for 2 hours. The dark solution was allowed to cool slowly and was stirred overnight at ambient temperature. The suspension was extracted with 5×4,000 ml of methylene chloride, washed with 3×3,000 ml of water, dried over magnesium sulfate and filtered. The filtrate was treated with activated carbon, filtered and the solvent was removed under reduced pressure. The solid residue was recrystallized from 1,000 ml of isopropanol to give 2-nitrophenylacetonitrile, m.p. 82°-84°.

reactant | Water | 50,000 ml | O | H2O
reactant | 2-nitrophenylpyruvic acid oxime | 22.22 moles | [N+](=O)([O-])C1=C(C=CC=C1)CC(C(=O)O)=NO | C9H8N2O5
solvent | acetic acid | 2,940 ml | C(C)(=O)O | C2H4O2
product | 2-nitrophenylacetonitrile | [N+](=O)([O-])C1=C(C=CC=C1)CC#N | C8H6N2O2
